US08207146B2
(E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(4-oxocyclohexyl)acrylic acid
1.14 g of tert-butyl 2-[(E)-2-(1,4-dioxa-spiro[4.5]dec-8-yl)-1-ethoxycarbonylvinyl]-5,5-dioxo-5H-phenothiazine-10-carboxylate are dissolved in 130 ml of methanol, and 7.0 ml of a 2 M NaOH solution are added. The reaction mixture is heated at the boil under reflux for two hours. Methanol is removed under reduced pressure and the reaction mixture is adjusted to pH 4 by addition of concentrated hydrochloric acid. The precipitated solid is dissolved in 200 ml of ethyl acetate and dried over MgSO4, and the solvent is then removed under reduced pressure. The residue obtained in this manner is dissolved in 20 ml of acetone, and 4 ml of 50% strength hydrochloric acid solution are added. The reaction mixture is stirred at room temperature for 30 minutes. The acetone is removed under reduced pressure and the residue is taken up in 100 ml of water and 100 ml of ethyl acetate. The organic phase is dried over MgSO4, and the solvent is then removed under reduced pressure. This gives 840 mg of (E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(4-oxocyclohexyl)acrylic acid.

reactant | tert-butyl 2-[(E)-2-(1,4-dioxa-spiro[4.5]dec-8-yl)-1-ethoxycarbonylvinyl]-5,5-dioxo-5H-phenothiazine-10-carboxylate | 1.14 g | O1CCOC12CCC(CC2)/C=C(/C(=O)OCC)\C2=CC=1N(C3=CC=CC=C3S(C1C=C2)(=O)=O)C(=O)OC(C)(C)C | C30H35NO8S
reactant | NaOH | 2 M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 130 ml | CO | CH4O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | (E)-2-(5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(4-oxocyclohexyl)acrylic acid | O=S1(C=2C=CC(=CC2NC2=CC=CC=C12)/C(/C(=O)O)=C\C1CCC(CC1)=O)=O | C21H19NO5S
